US05106842
7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyimino-acetamido]-3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylic acid (Id2)
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylate (550 mg) was added to stirred and cooled (ice/H2O bath) trifluoroacetic acid (5 mL) containing anisole (1mL). The cooling bath was removed, and stirring was continued for 0.66 hr at ambient temperatures. The solution was added to stirred diisopropyl ether to precipitate the trifluoroacetic acid salt of the title compound (353 mg, 70% yield) as a yellow powder.

reactant | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylate | 550 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C31H25N5O7S2
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 1mL | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyimino-acetamido]-3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylic acid | 353 mg, 70% yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)C)C(=O)O)C1=O)=N/OC | C18H15N5O7S2
